US07601856B2
1-ACETYL-N-7,8,9,10-TETRAHYDRO-6H-BENZO[B]CYCLOHEPTA[D]FURAN-2-YL-L-PROLINAMIDE
Following the procedure of Example 30, triethylamine (0.21 mL, 1.5 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.15 g, 0.78 mmol), N-hydroxybenzotriazole (0.11 g, 0.78 mmol), N-acetyl-L-proline (0.094 g, 0.60 mmol), and 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (0.12 g, 0.60 mmol) 1-acetyl-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-yl-L-prolinamide (0.13 g). MS (ESI) m/z 341 ([M+H]+); MS (ESI) m/z 339.1 ([M−H]−); HRMS: calcd for C20H24N2O3+H+, 341.18597; found (ESI, [M+H]+), 341.1863.

reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.78 mmol, 0.15 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 0.78 mmol, 0.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-acetyl-L-proline | 0.60 mmol, 0.094 g | C(C)(=O)N1[C@H](C(=O)O)CCC1 | C7H11NO3
reactant | 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine | 0.60 mmol, 0.12 g | C1=C(C=CC=2OC3=C(C21)CCCCC3)N | C13H15NO
product | 1-ACETYL-N-7,8,9,10-TETRAHYDRO-6H-BENZO[B]CYCLOHEPTA[D]FURAN-2-YL-L-PROLINAMIDE | C(C)(=O)N1[C@H](C(=O)NC2=CC3=C(OC4=C3CCCCC4)C=C2)CCC1 | C20H24N2O3
